US08809389B2
Following the same procedure as in Example 3a), 46.3 g (0.286 moles) of 5-propyl-2,3-dihydrobenzofuran were reacted with 29.2 g (0.286 moles) of acetic anhydride and 3.9 g (0.029 moles) of anhydrous zinc chloride. After washing and work up, 18.2 g of 5-propyl-6-acetyl-2,3-dihydrobenzofuran was obtained as an oil (129-131° C./0.5 mbar) (title 93%).

reactant | 5-propyl-2,3-dihydrobenzofuran | 0.286 moles, 46.3 g | C(CC)C=1C=CC2=C(CCO2)C1 | C11H14O
reactant | acetic anhydride | 0.286 moles, 29.2 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 0.029 moles, 3.9 g | [Cl-].[Zn+2].[Cl-]
product | 5-propyl-6-acetyl-2,3-dihydrobenzofuran | 18.2 g | C(CC)C=1C(=CC2=C(CCO2)C1)C(C)=O | C13H16O2
